US08293917B2
A solution 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionyl chloride (100 mg, 0.19 mmol) in 1,2-dichloroethane (3 mL) is treated with diethylamine (28 mg, 0.38 mmol) in one portion and stirred at room temperature for 2 hours. The reaction mixture is concentrated in vacuo and purified by flash chromatography on silica gel (eluted with 1 to 4% MeOH/CH2Cl2) to afford 1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(3-bromo-phenyl)-2-diethylcarbamoyl-ethyl]-amide as a white foam (6.0 mg, 6.0%).

reactant | 3-(3-bromo-phenyl)-3-{[1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-propionyl chloride | 0.19 mmol, 100 mg | BrC=1C=C(C=CC1)C(CC(=O)Cl)NC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)Cl)Cl | C20H15BrCl3N3O2
reactant | diethylamine | 0.38 mmol, 28 mg | C(C)NCC | C4H11N
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 1-(3,4-dichloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(3-bromo-phenyl)-2-diethylcarbamoyl-ethyl]-amide | 6.0 mg, 6.0% | BrC=1C=C(C=CC1)C(CC(N(CC)CC)=O)NC(=O)C=1C=NN(C1C)C1=CC(=C(C=C1)Cl)Cl | C24H25BrCl2N4O2
